US07576108B2
b: (E)-3-Cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethoxy-phenyl)-prop-2-en-1-ol
Heat a suspension of 4-bromo-1-methanesulfonyl-2-trifluoromethoxy-benzene (0.71 g, 2.23 mmol), (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (0.77 g, 2.91 mmol), 2 M aqueous sodium carbonate solution (2.2 mL, 4.4 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (164 mg, 2.13 mmol) in 5.7 mL DMF to 80° C. for 2 h. Dilute the mixture with ethyl acetate, separate the organic layer, wash it with water followed by saturated sodium chloride solution. Filter through a hydrophobic filter paper and remove the solvent under vacuum. Further purify the resulting residue by column chromatography, eluting with a gradient from 100:0 to 30:70 hexanes:ethyl acetate to afford the title compound (0.75 g) as a yellow oil. MS (m/e): 396 (M+4H2O).

reactant | 4-bromo-1-methanesulfonyl-2-trifluoromethoxy-benzene | 2.23 mmol, 0.71 g | BrC1=CC(=C(C=C1)S(=O)(=O)C)OC(F)(F)F | C8H6BrF3O3S
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 2.91 mmol, 0.77 g | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | sodium carbonate | 4.4 mmol, 2 M, 2.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5.7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 2.13 mmol, 164 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-3-Cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethoxy-phenyl)-prop-2-en-1-ol | 0.75 g | C1(CCCCC1)/C=C(/CO)\C1=CC(=C(C=C1)S(=O)(=O)C)OC(F)(F)F | C17H21F3O4S
